US09376422B2
Step 2: synthesis of methyl 5-(2-hydroxyethoxy)-2-methyl-3-nitrobenzoate
To a stirred solution of methyl 5-hydroxy-2-methyl-3-nitrobenzoate (1.5 g, 7.1 mmol) in ACN (15 mL), were added cesium carbonate (4.6 g, 14 mmol) and 2-bromoethanol (2.5 mL, 35 mmol). The resulting reaction mixture was heated at 80° C. overnight. On completion, the reaction mixture was diluted with water and extraction was carried out using ethyl acetate. The combined organic layers were washed with water, dried and concentrated under reduced pressure. The crude material was purified by silica gel column chromatography to afford the title compound (1.35 g, 74%).

reactant | methyl 5-hydroxy-2-methyl-3-nitrobenzoate | 7.1 mmol, 1.5 g | OC=1C=C(C(=C(C(=O)OC)C1)C)[N+](=O)[O-] | C9H9NO5
reactant | cesium carbonate | 14 mmol, 4.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromoethanol | 35 mmol, 2.5 mL | BrCCO | C2H5BrO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ACN | 15 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | methyl 5-(2-hydroxyethoxy)-2-methyl-3-nitrobenzoate | 1.35 g, 74% | OCCOC=1C=C(C(=C(C(=O)OC)C1)C)[N+](=O)[O-] | C11H13NO6
